datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N:12]([C:11]2=[CH:10]C[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2C[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"[N-:10]1[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([N:10]2[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1.[H:10][BH3-:11]>>N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[H:10].[BH3:11] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([N:10]1[C@H](C2=CC=CC=C2)CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>C[C:22](=[CH:21][CH:20]([N:10]1CCC[N+:12]2=[C:11]1[S:62]CC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[C:20]2([O-:21])CCC3(CC2)OCCO3)C1(C)C 10,11=10,20;12=11,12;20,21=21"
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C21C=CC=CC13C54>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C21C=CC=CC13C54 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[Sn](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CCCC[Sn](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([F:20])[CH:11]=[CH:12]1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1[CH:10]=[CH:11][CH:62]=[CH:63]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2C[CH:63]=[CH:62][CH+:11]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.Cl[Zn:11]Cl 10,11=10,20"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1.C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.CC[O:50][C:22](=[CH:21][CH:20]([CH3:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1>>C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[CH2:20][C:21]2=[C:22]([O-:23])[O:33]CCC2)[CH:72]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[S:20]C(F)(F)F.C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
